US08049015B2
3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid and tert-butylamine were reacted as described in Example 5, Step 6 to provide 3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-N-tert-butyl-benzamide

reactant | 3-[(N-Benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-benzoic acid | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC=1C=C(C(=O)O)C=CC1Br | C19H18BrNO3
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | 3-[(N-benzyl-N-cyclopropanecarbonyl-amino)-methyl]-4-bromo-N-tert-butyl-benzamide | C(C1=CC=CC=C1)N(C(=O)C1CC1)CC=1C=C(C(=O)NC(C)(C)C)C=CC1Br | C23H27BrN2O2
